US07736624B2
a Celecoxib Analog: Compound 30c, 3-[1-{p-(Sulfonamido)phenyl}-5-p-tolyl-1H-pyrazol-3-yl]propanoic acid., was synthesized by the method depicted in FIG. 2. Briefly, 4′-methylacetophenone and succinnic hydride were reacted in the presence of lithium diisopropanolamine (LDA) and tetrahydrofuran (THF) for 1 hour at −78° C. to produce p-tolyl-4,6-dioxohexanoic acid as a white solid (66% yield). Also sulfanilamide has reacted with sodium nitrite (NaNO2) and concentrated hydrochloric acid at 0-4° C. for 30 minutes, after which tin(II) chloride (SnCl2) was added and the reaction allowed to continue for an additional 4 hours at 0° C. to produce 4-sulfonamidophenylhydrazine hydrochloride as a pale yellow solid (55% yield). The 4,6,dioxo-6-p-tolylhexanoic acid and the 4-sulfonamidophenylhydrazine hydrochloride were then complexed for 16 hours at room temperature in the presence of triethanolamine (TEA) in methanol to produce Compound 30c as a yellow solid (76% yield).

reactant | sulfanilamide | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | tin(II) chloride | [Sn](Cl)Cl
product | 4-sulfonamidophenylhydrazine hydrochloride | 55% yield | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl | InChI=1S/C6H9N3O2S.ClH/c7-9-5-1-3-6(4-2-5)12(8,10)11;/h1-4,9H,7H2,(H2,8,10,11);1H
